Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / Calcitonin
 
Attending: ___.
 
Chief Complaint:
vertigo
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ woman with past medical history of
hypertension hyperlipidemia question of a TIA presents for
evaluation of acute onset vertigo. 

Essentially Ms. ___ has been in her normal state of health
until yesterday afternoon when she noted abrupt onset room
spinning while she was laying down.  She has difficulty
describing her sensation of dizziness, though when asked if the
room was spinning around her she states yes.  She denies a
feeling of lightheadedness, sensation that she was going to pass
out, diaphoresis.  She denies ever having any sensation similar
to this previously

Patient initially says she is no longer symptomatic, she told 
her
daughter only seconds prior to my interview that she was still
feeling dizzy.  The symptoms seem to be worse with standing up. 
She denies any episodic component it has more or less been
constant though seems to be aggravated with standing. It is not
triggered by changes to her head positioning. 

In regards to her previous TIA, her daughter states this was in
___.  However the patient is only able to state that her
symptoms were "feeling funny". 

She has no nausea, no vomiting, no dysarthria, no dysphasia, no
hypophonia or hoarseness.  She has not experienced any weakness,
numbness, tingling she notes being very frustrated and fatigued
that she is in the emergency room. 

 

ROS: 
Otherwise negative except as mentioned in HPI 

 
Past Medical History:
ADVERSE DRUG REACTION                                           
Penicillin allergy by history ___.. Myalgias on calcitonin   
___..                                                        

HEALTH MAINTENANCE                                              
Dr ___, ___, ___ ___..                  

MYALGIA                                                         
Myalgia on calcitonin ___..                                  

OSTEOPOROSIS                                                    
Documented by bone density by pt's report ___..              

SENSORINEURAL HEARING LOSS                                      

CHRONIC RHINITIS                                                
Per ENT records from ___ On flonase in the past                  

DEEP VENOUS THROMBOSIS                                          
 right femoral vein s/P IVC filter                              

DIABETES, TYPE II                                               
per old records, diet controlled                                

CEREBRAL VASCULAR DISEASE                                       
H/O TIA in ___ presenting symptom "feeling strange"            

ADRENAL ADENOMA                                                 
Last CT ___ per old records 2cm inguinal LN                    

SKIN CANCERS                                                    
Basal cell left nose and ear Squamous cell                      

GASTRIC ULCERS WITH HEMORRHAGE                        ___      
EGD ___ neg H.pylori                                           

OSTEOARTHRITIS                                                  

MITRAL REGURGITATION                                            

RIGHT BUNDLE BRANCH BLOCK                                       
and First degree AVB per records, no EKG available              

___ CYST                                          ___
Left Popliteal fossa                                            

H/O HYSTERECTOMY                                      ___      
At ___ ___ by patient's report      
___..                                                        

 
Social History:
Children:           Yes: 4 children, 2 girls and 2 boys         
Lives with:         Other: ___ ___                    
Lives in:           Group Setting                               
Work: ___
Tobacco use:        Never smoker                                
Alcohol use:        Denies                                      
Recreational drugs  Denies                                      
(marijuana, heroin,                                             
crack pills or                                                  
other):                                                         
Depression:         Based on a PHQ-2 evaluation, the patient    
                    does not report symptoms of depression      
Exercise:           Activities: Exercise class at ___.          
Diet:               Regular                                     

Comments:           Uses a rollator. Independent in ADLs        
                    Dependent with meds, finances. Independent  
                    with phone.                                 

- Modified Rankin Scale:
 [] 0: No symptoms
 [] 1: No significant disability - able to carry out all usual
activities despite some symptoms
 [x] 2: Slight disability: able to look after own affairs 
without
assistance but unable to carry out all previous activities
 [] 3: Moderate disability: requires some help but able to walk
unassisted
 [] 4: Moderately severe disability: unable to attend to own
bodily needs without assistance and unable to walk unassisted
 [] 5: Severe disability: requires constant nursing care and
attention, bedridden, incontinent
 [] 6: Dead

 
Family History:
Relative Status   Age Problem              Onset Comments       
Mother   ___ ___ DEMENTIA                                  

Father   ___ ___ VASCULAR DISEASE                          

Brother  ___ ___ HEART DISEASE                             
                      CANCER                                    

Son                   CELIAC DISEASE       
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
PHYSICAL EXAMINATION: 
**  hard of hearing 

 Vitals: Reviewed and notable for BP 195/82 
 General: Awake, cooperative, 
 HEENT: MMM .
 Neck: Supple, 
 Cardiac: irregular rate , warm, well-perfused.
 Abdomen: Soft, non-distended.
 Extremities: No ___ edema.
 Skin: No rashes or lesions noted.
  
 Neurologic:
 -Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. . There was no evidence of apraxia or
neglect.

-Cranial Nerves:
 II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI, + right
beating nystagmus on sustained left gaze. Pt appears to refocus
when testing upgaze, so difficult to fully assess for vertical
nystagmus. No skew. Head impulse test w/o corrective saccade. Pt
did not become more symptomatic w/ ___, nystagmus
unchanged w/ this maneuver. Difficulty when testing saccades but
no obvious overshoot and overall appear intact.  VFF to
confrontation. Visual acuity ___ bilaterally. 
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii bilaterally.
 XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
   [___]
  L   5    5    5    5    5    5   5    5    5   5    5    5
  R   5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, pinprick, temperature, 
vibration, or proprioception throughout. No extinction to DSS.
Romberg absent. 

-Reflexes:
   [Bic] [Tri] [___] [Pat] [Ach]
 L   2     3      3      2     0
 R   2     3      3      2     0 
 Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. 

DISCHARGE PHYSICAL EXAM:
 -Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. . There was no evidence of apraxia or
neglect.

-Cranial Nerves:
 II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI, she has left 
beating nystagmus on left gaze that extinguishes after ___ 
beats. No vertical nystagmus. No skew. VFF to confrontation. 
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii bilaterally.
 XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
   [___]
  L   5    5    5    5    5    5   5    5    5   5    5    5
  R   5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch throughout, no extinction 
to DSS. 

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF bilaterally.

-Gait: walking with walker, has a stooped posture and takes 
shuffling steps. Gait at baseline per family members at bedside. 

 
Pertinent Results:
INDICATION:  ___ yo w/ vascular risk factors presenting w/ 
constant dizziness 
worse w/ standing. Exam w/ right beating nystagmus on left gaze, 
? of vertical 
nystagmus but pt keeps refixating on upgaze so difficult to 
fully assess. Did 
perform head impulse test, which was w/o corrective saccade. No 
other focal 
sxs on exam. CTA w/ mild carotid athero. but otherwise okay  // 
r/o stroke 
  
TECHNIQUE:  Sagittal T1 weighted imaging was performed. Axial 
imaging was 
performed with gradient echo, FLAIR, diffusion, and T2 technique 
were then 
obtained. 
  
COMPARISON  CT head and neck ___. 
  
FINDINGS:  
  
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift 
or infarction.   The ventricles and sulci are normal in caliber 
and 
configuration.  There are nonspecific bilateral supratentorial 
T2/FLAIR white 
matter hyperintensities, which may represent the sequelae of 
chronic 
microangiopathy. Note is made of moderate narrowing at the 
craniocervical 
junction secondary to atlantoaxial degenerative change. 
  
IMPRESSION: 
  
  
1.   No acute intracranial abnormality is identified. 
2. Nonspecific bilateral supratentorial T2/FLAIR white matter 
hyperintensities, which may represent the sequelae of chronic 
microangiopathy. 
3. Moderate narrowing at the craniocervical junction secondary 
to atlantoaxial 
degenerative change. 

___ 07:27PM BLOOD WBC-4.3 RBC-3.76* Hgb-12.0 Hct-37.0 
MCV-98 MCH-31.9 MCHC-32.4 RDW-15.5 RDWSD-55.8* Plt ___
___ 07:27PM BLOOD Neuts-56.8 ___ Monos-9.2 Eos-2.5 
Baso-0.2 Im ___ AbsNeut-2.46 AbsLymp-1.35 AbsMono-0.40 
AbsEos-0.11 AbsBaso-0.01
___ 07:27PM BLOOD Glucose-99 UreaN-20 Creat-0.9 Na-139 
K-4.2 Cl-101 HCO3-28 AnGap-10
___ 07:27PM BLOOD ALT-18 AST-24 AlkPhos-78 TotBili-0.3
___ 09:12PM BLOOD TSH-4.7*
___ 06:01PM URINE Type-RANDOM Color-Straw Appear-Clear Sp 
___
___ 06:01PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-0.2 pH-7.0 Leuks-NEG
 
Brief Hospital Course:
___ is a ___ year old woman with past medical history of 
hypertension and hyperlipidemia who presented with acute onset 
vertigo. She was given aspirin 325 mg once in the emergency 
department and then started on 81 mg daily. Patient was 
monitored in the hospital for 24 hours, with no arrhythmia found 
on telemetry. Toxic metabolic workup was negative. TSH 4.7. She  
had an MRI brain which did not show an acute infarct. Her 
symptoms improved, though they did not totally abate. Her home 
blood pressures were high in the hospital initially (her home 
blood pressure medications were held due to stroke protocol) but 
her medications were restarted, and her blood pressures were 
slightly better controlled though still elevated 160s. She was 
able to ambulate at baseline, and her family requested that she 
be discharged home prior to physical therapy evaluation and 
complete resolution of symptoms. We did not want to initiate new 
blood pressure medications and then discharge patient, so we did 
not start new medications and instead will have patient follow 
up with her PCP. They wanted to be discharged before ___ 
evaluation, so the need for home services could not be assessed 
or set up. 
Etiology of her symptoms is not clear. There was no evidence of 
ischemia on MRI, making stroke less likely. As she had ongoing 
(though improving symptoms) it is likely that we captured the 
event of dizziness, making TIA less likely. Patient was not 
always able to remember her symptoms, so it is possible that she 
had transient vertigo representing TIA, and therefore in an 
abundance of caution we opted to continue aspirin 81mg daily 
until follow up with neurology. We considered BPPV although the 
symptoms were not positional or provoked by movement, vestibular 
neuronitis unlikely as she had not had any recent illnesses. 
Cervicogenic vertigo was also on the differential, particularly 
given history that she had been doing more exercise than usual 
walking up multiple flights of stairs the day before this 
started, and was also reporting some neck pain. Hypertensive 
sequelae was considered but symptoms did not improve 
significantly with blood pressure control making this less 
likely. 
We recommended that she continue aspirin 81 mg daily in the 
unlikely event that this was secondary to a transient ischemic 
attack. We also recommend that she wear a soft cervical collar 
at bedtime for possible cervicogenic vertigo. We gave her 2 
tablets of meclizine to try at home, and reviewed side effects 
with her and her family. She will need to follow-up with her 
primary care doctor within 1 week, and with stroke neurology 
within the next few months to determine duration of aspirin 
therapy. While inpatient, we notified the geriatrics team of her 
admission, who recommended outpatient follow up. 

#Transitional Issues
- Follow up with Dr. ___ blood pressure control, TSH 
recheck 
- Follow up in stroke neurology, have emailed for appointment 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 2.5 mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. Calcium Carbonate 500 mg PO DAILY 
4. Vitamin D 1000 UNIT PO DAILY 
5. Losartan Potassium 25 mg PO DAILY 
6. Pantoprazole 40 mg PO Q24H 
7. Docusate Sodium 100 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Aspirin Regimen] 81 mg 1 tablet(s) by mouth 
once a day Disp #*90 Tablet Refills:*0 
2.  Meclizine 12.5 mg PO ONCE MR1:PRN as needed for vertigo 
Duration: 2 Doses 
Take one dose, if effective can repeat dose when symptoms return 

RX *meclizine 12.5 mg 1 tablet(s) by mouth once a day Disp #*3 
Tablet Refills:*0 
3.  amLODIPine 2.5 mg PO DAILY  
4.  Atorvastatin 20 mg PO QPM  
5.  Calcium Carbonate 500 mg PO DAILY  
6.  Docusate Sodium 100 mg PO DAILY  
7.  Losartan Potassium 25 mg PO DAILY  
8.  Pantoprazole 40 mg PO Q24H  
9.  Vitamin D 1000 UNIT PO DAILY  
10.Outpatient Physical Therapy
home physical therapy for cervicalgia

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cervicogenic vertigo
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).  Ambulation at baseline per family.
 
Discharge Instructions:
Dear Ms. ___, 
You were hospitalized because you experienced acute onset 
vertigo.  We did an MRI of your brain which showed that you did 
not have a stroke. This is great news! However, it is not 
completely clear what is causing your dizziness. We thought 
about problems in the inner ear, but your symptoms did not 
completely fit with this. We were going to try meclizine in the 
hospital to see if it helped your symptoms, but you preferred to 
go home so we will give you a few tablets to try at home. Your 
symptoms also could represent cervicogenic vertigo, which means 
that spinal stenosis in the neck could contribute to a feeling 
of unsteadiness. 
Your symptoms improved, though did not completely resolve. You 
were able to walk, and you and your family preferred you go 
home. You should get physical therapy as an outpatient. 
 
Followup Instructions:
___